US07842688B2
h) (2,5-Difluorophenoxy)acetonitrile
Analogously to Method F, 2.0 g of 2,5-difluorophenol and 2.1 ml of bromoacetonitrile are reacted. The title compound is obtained as a slightly yellowish oil. Rf=0.52 (1:2 EtOAc-heptane); Rt=3.86.

reactant | 2,5-difluorophenol | 2.0 g | FC1=C(C=C(C=C1)F)O | C6H4F2O
reactant | bromoacetonitrile | 2.1 ml | BrCC#N | C2H2BrN
product | (2,5-Difluorophenoxy)acetonitrile | FC1=C(OCC#N)C=C(C=C1)F | C8H5F2NO
